US04554281
2-amino-3-carbethoxyamino-6-(2,4,6-trimethylbenzylamino)-pyridine-(1/3 citrate)
40 grams of 2-amino-3-carbethoxyamino-6-(2,4,6-trimethylbenzylamino)-pyridine hydrochloride were dissolved in 200 ml of methanol and treated with 25% aqueous ammonia, whereupon the base crystallized out. The base was filtered off with suction and dissolved in dioxane/methanol (2:1 by volume) in the hot. The warm solution was acidified with a solution of citric acid in methanol to pH 3, whereupon the "citrate" precipitated in cooling with stirring. The compound crystallized with 0.33 mole of citric acid and was recrystallized from a little isopropanol.

reactant | 2-amino-3-carbethoxyamino-6-(2,4,6-trimethylbenzylamino)-pyridine hydrochloride | 40 grams | Cl.NC1=NC(=CC=C1NC(=O)OCC)NCC1=C(C=C(C=C1C)C)C
reactant | ammonia | N | H3N
reactant | citric acid | 0.33 mole | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | methanol | 200 ml | CO | CH4O
product | 2-amino-3-carbethoxyamino-6-(2,4,6-trimethylbenzylamino)-pyridine | NC1=NC(=CC=C1NC(=O)OCC)NCC1=C(C=C(C=C1C)C)C | C18H24N4O2
